US06451814B1
5-[(2S)Oxiranylmethoxy]-1,3-benzodioxole
The title compound (2.01 g, 10.35 mmol) was prepared according to Procedure A using the following amounts: sesamol (2.49 g, 18.02 mmol), potassium carbonate (2.74 g, 19.83 mmol) and (2S)-(+)-glycidyl-3-nitrobenzenesulfonate (4.67 g, 18.02 mmol).

reactant | sesamol | 18.02 mmol, 2.49 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | potassium carbonate | 19.83 mmol, 2.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2S)-(+)-glycidyl-3-nitrobenzenesulfonate | 18.02 mmol, 4.67 g | C1[C@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
product | 5-[(2S)Oxiranylmethoxy]-1,3-benzodioxole | 10.35 mmol, 2.01 g | O1[C@@H](C1)COC1=CC2=C(OCO2)C=C1 | C10H10O4
